US05602013
The process of claim 1 in which D-glucose is aminated to N-(2-hydroxyethyl) glucamine which in turn is oxidized to produce 6-(2-hydroxyethyl)amino-6-deoxy-α-L-sorbofuranose which is then reduced to produce N-(2-hydroxyethyl)-1-deoxynojirimycin.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | N-(2-hydroxyethyl) glucamine | OCCNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C8H19NO6
product | 6-(2-hydroxyethyl)amino-6-deoxy-α-L-sorbofuranose | OCCNC[C@H]1[C@H]([C@@H]([C@](CO)(O)O1)O)O | C8H17NO6
